US03962320
To a cold suspension of 4.66 g (0.194) mole of sodium hydride in 200 ml dimethylacetamide there is added dropwise 28.2 g (0.176 mole) diethyl malonate in 80 ml of dimethylacetamide maintaining the temperature between 0° and 5°C. Stirring is initiated for two hours at room-temperature and there is then added 40.8 g(0.16 mole) of α-bromo-p-pivaloyl toluene in 200 ml of dimethylacetamide maintaining the reaction temperature between 20° and 30°C. Stirring is continued overnight at room temperature. Water is then added and the excess dimethylacetamide is removed in vacuo, and the resulting residue is partitioned between petroleum ether and water. The layers are washed with water, and salt water, dried and evaporated in vacuo. The residue is then distilled in vacuo and crystallized from petroleum ether at -50°C to give bis-(p-pivaloylbenzyl)malonic acid diethyl ester, m.p. 65° to 67°C.

reactant | sodium hydride | [H-].[Na+]
reactant | diethyl malonate | 0.176 mole, 28.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | α-bromo-p-pivaloyl toluene | 0.16 mole, 40.8 g | BrCC1=CC=C(C=C1)C(C(C)(C)C)=O | C12H15BrO
reactant | Water | O | H2O
solvent | dimethylacetamide | 200 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 80 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 200 ml | CC(=O)N(C)C | C4H9NO
product | bis-(p-pivaloylbenzyl)malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(CC1=CC=C(C=C1)C(C(C)(C)C)=O)CC1=CC=C(C=C1)C(C(C)(C)C)=O)=O | C31H40O6
